US08981085B2
A solution of tert-butyl (3R)-1-(5-bromo-3-(tetrahydrofuran-2-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate in TFA (3 mL) was stirred at room temperature for 30 minutes and then concentrated in vacuo. The residue obtained was purified by C-18 reverse phase chromatography (Biotage Flash 12 M+, C-18) on Biotage SP4 unit eluting with a gradient of 1-50% CH3CN/water (14 CV). The pure fractions containing the R-isomer (by comparing the retentions times of S-isomer, Example 71A) were pooled, concentrated in vacuo and evaporated from CH3CN (3×5 mL). The solid residue obtained was dissolved in minimal methanol, diluted with CH2Cl2 (1 mL) and treated with 2M HCl in ether (3 mL). The resulting suspension was concentrated in vacuo and evaporated from CH2Cl2 (3×5 mL) and dried under high vacuum for 24 hours to provide (R)—N-(4-((R)-3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)tetrahydrofuran-2-carboxamide hydrochloride (16 mg, 21% yield) as a solid. NMR (400 MHz, (CD3)2SO) δ 11.72 (s, 1H), 9.83 (s, 1H), 8.21 (s, 1H), 8.16 (br s, 3H), 7.89 (s, 1H), 4.37 (t, 1H), 3.96-3.91 (m, 1H), 3.85-3.79 (m, 1H), 3.55-3.48 (m, 3H), 3.26-3.20 (m, 1H), 2.97-2.91 (m, 1H), 2.28-2.20 (m, 1H), 2.15-2.09 (m, 1H), 1.94-1.81 (m, 5H), 1.48-1.40 (m, 1H); LCMS (APCI+) m/z 408.1, 410.1 (M+H)+, Retention time=2.32 minutes (Method 2).

reactant | tert-butyl (3R)-1-(5-bromo-3-(tetrahydrofuran-2-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2OCCC2)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C22H30BrN5O4
reactant | HCl | 2M | Cl | ClH
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methanol | CO | CH4O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 3 mL | CCOCC | C4H10O
product | (R)—N-(4-((R)-3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)tetrahydrofuran-2-carboxamide hydrochloride | 16 mg, 21% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(=O)[C@@H]2OCCC2 | InChI=1S/C17H22BrN5O2.ClH/c18-11-7-20-16-14(15(11)23-5-1-3-10(19)9-23)12(8-21-16)22-17(24)13-4-2-6-25-13;/h7-8,10,13H,1-6,9,19H2,(H,20,21)(H,22,24);1H/t10-,13-;/m1./s1
